US07442708B2
(1-Amino-2-methylindolizin-3-yl)(3-methoxy-4-nitrophenyl)methanone
2.32 ml of trifluoroacetic acid are added dropwise to a solution of 643 mg (1.51 mmol) of tert-butyl 3-(3-methoxy-4-nitrobenzoyl)-2-methylindolizin-1-ylcarbamate in 20 ml of dichloromethane, cooled to 0° C. Once the introduction is complete, the medium is allowed to return to room temperature and it is stirred for 4 hours. The reaction medium is poured over a saturated aqueous potassium carbonate solution and extracted with ethyl acetate. The organic phase is separated after settling out, washed with a saturated aqueous sodium chloride solution, dried over sodium sulphate and concentrated under reduced pressure. The crystals obtained are taken up in isopropyl ether, filtered off, washed with isopropyl ether and then dried. 425 mg of a brown solid are obtained.

reactant | trifluoroacetic acid | 2.32 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 3-(3-methoxy-4-nitrobenzoyl)-2-methylindolizin-1-ylcarbamate | 1.51 mmol, 643 mg | COC=1C=C(C(=O)C2=C(C(=C3C=CC=CN23)NC(OC(C)(C)C)=O)C)C=CC1[N+](=O)[O-] | C22H23N3O6
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | isopropyl ether | C(C)(C)OC(C)C | C6H14O
product | (1-Amino-2-methylindolizin-3-yl)(3-methoxy-4-nitrophenyl)methanone | 425 mg, Yield: 87% | NC=1C(=C(N2C=CC=CC12)C(=O)C1=CC(=C(C=C1)[N+](=O)[O-])OC)C | C17H15N3O4
